US07777031B2
(4-Cyclobutyl-[1,4]diazepan-1-yl)-[6-(4-fluoro-phenoxy)-pyridin-3-yl]-methanone
5-Bromo-2-(4-fluoro-phenoxy)-pyridine (27.2 mg, 0.102 mmol) was dissolved in Et2O (0.8 mL). The mixture was cooled to −78° C. n-Butyl lithium (0.040 mL, 2.5 M in hexanes) was added and the reaction mixture was stirred for 5 min at −78° C. CO2 gas (from dry ice, passed through 4 Å molecular sieves) was bubbled through the mixture and the reaction was allowed to warm to 23° C. over 3 min. The solvents were removed by distillation then DCM (0.5 mL), DMF (0.05 mL) and oxalyl chloride (0.070 mL, 2.0 M in DCM) were added. The mixture was stirred for 3 min then cyclobutyl diazepine bis-HCl salt (27.6 mg, 0.122 mmol) and iPr2NEt (0.1 mL) were added to the reaction following dissolution in DCM (0.5 mL). The mixture was stirred for 3 min at 23° C. and was concentrated. Analysis by HPLC indicated a yield of 80%. Chromatography on SiO2 gave 21.5 mg (57%) of the title compound that was >90% pure by NMR.

reactant | 5-Bromo-2-(4-fluoro-phenoxy)-pyridine | 0.102 mmol, 27.2 mg | BrC=1C=CC(=NC1)OC1=CC=C(C=C1)F | C11H7BrFNO
reactant | n-Butyl lithium | 2.5 M, 0.040 mL | C(CCC)[Li]
reactant | cyclobutyl diazepine bis-HCl salt | 0.122 mmol, 27.6 mg | Cl.Cl.C1(CCC1)C1=NNC=CC=C1
reactant | iPr2NEt | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Et2O | 0.8 mL | CCOCC | C4H10O
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (4-Cyclobutyl-[1,4]diazepan-1-yl)-[6-(4-fluoro-phenoxy)-pyridin-3-yl]-methanone | 21.5 mg, 57% | C1(CCC1)N1CCN(CCC1)C(=O)C=1C=NC(=CC1)OC1=CC=C(C=C1)F | C21H24FN3O2
